US09403839B2
Under an atmosphere of nitrogen, tert-butyllithium (2.14 mL of 1.6 M in toluene, 3.42 mmol) was added dropwise to a solution of 4-bromo-1-isopropoxy-2-methoxy-benzene (400 mg, 1.63 mmol) in THF (6 mL) at −78° C. The reaction mixture was allowed to stir for 1 hour at −78° C., then added dropwise to a flask containing CO2 (1.8 g, 40.8 mmol) (solid, dry ice) in THF (2 mL). The reaction mixture was allowed to stir for 30 minutes warming to room temperature. Water (20 mL) was added to the reaction mixture and the volatiles were removed in vacuo. The resultant aqueous layer was acidified with 1N HCl solution to pH 1 and was extracted with ethyl acetate (3×15 mL). The organics were separated and the combined organics were washed with brine solution, dried over sodium sulfate, filtered and concentrated in vacuo to give 4-isopropoxy-3-methoxy-benzoic acid (310 mg, 85%) as a white solid. ESI-MS m/z calc. 210.1, found 211.1 (M+1)+; Retention time: 1.23 minutes (3 min run). 1H NMR (400 MHz, DMSO) δ 12.63 (s, 1H), 7.53 (dd, J=8.4, 2.0 Hz, 1H), 7.44 (d, J=2.0 Hz, 1H), 7.04 (d, J=8.7 Hz, 1H), 4.67 (dt, J=12.1, 6.0 Hz, 1H), 3.78 (s, 3H), 1.28 (d, J=6.0 Hz, 6H).

reactant | tert-butyllithium | 3.42 mmol, 1.6 M, 2.14 mL | C(C)(C)(C)[Li]
reactant | 4-bromo-1-isopropoxy-2-methoxy-benzene | 1.63 mmol, 400 mg | BrC1=CC(=C(C=C1)OC(C)C)OC | C10H13BrO2
reactant | CO2 | 40.8 mmol, 1.8 g | C(=O)=O | CO2
reactant | Water | 20 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-isopropoxy-3-methoxy-benzoic acid | 310 mg, 85% | C(C)(C)OC1=C(C=C(C(=O)O)C=C1)OC | C11H14O4
